* source SCHEMATIC
V_V1         N00042 0 4Vdc
R_R1         0 N00169  1k TC=0,0 
R_R2         N00169 N00042  1k TC=0,0 
R_R3         0 N00165  1k TC=0,0 
R_R4         N00165 N00042  1k TC=0,0 
